US05488055
A mixture of 2-chloro-5-(fluorosulfonyl)benzoic acid (11.93 g, 0.05 mol), diethylamine (10.97 g, 0.15 mol) and 1,2-dichloroethane (100 mL) was refluxed for 8 hours. The reaction mixture was evaporated and the residue was dissolved in ethyl acetate. A solid was collected by filtration and the filtrate was evaporated to dryness to afford 15.5 g of 2-chloro-5-diethylaminosulfonyl)benzoic acid.

reactant | 2-chloro-5-(fluorosulfonyl)benzoic acid | 0.05 mol, 11.93 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)F | C7H4ClFO4S
reactant | diethylamine | 0.15 mol, 10.97 g | C(C)NCC | C4H11N
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
